US07915254B2
3-(N,N-diethylamino)-7-(N,N-dipropylamino)-phenothiazin-5-ium iodide (150%)
This compound was obtained following isolation of 3-(N,N-dipropylamino)-phenothiazin-5-ium triiodide and subsequent treatment with diethylamine. Precipitation from dichloromethane by addition of diethyl ether yielded purple lustrous crystals. Mass spectrometry: C22H30N3OS requires m/z=368; found m/z=368 (I− not detected by mass spectrometry).

reactant | 3-(N,N-dipropylamino)-phenothiazin-5-ium triiodide | [I-].[I-].[I-].C(CC)N(CCC)C=1C=CC2=NC3=CC=CC=C3[S+]=C2C1.C(CC)N(CCC)C=1C=CC2=NC3=CC=CC=C3[S+]=C2C1.C(CC)N(CCC)C=1C=CC2=NC3=CC=CC=C3[S+]=C2C1
reactant | diethylamine | C(C)NCC | C4H11N
product | 3-(N,N-diethylamino)-7-(N,N-dipropylamino)-phenothiazin-5-ium iodide | [I-].C(C)N(CC)C=1C=CC2=NC3=CC=C(C=C3[S+]=C2C1)N(CCC)CCC | InChI=1S/C22H30N3S.HI/c1-5-13-25(14-6-2)18-10-12-20-22(16-18)26-21-15-17(24(7-3)8-4)9-11-19(21)23-20;/h9-12,15-16H,5-8,13-14H2,1-4H3;1H/q+1;/p-1
